US07893069B2
A solution of 450 mg (1.49 mmol) N-tert-butyl-6-(5-ethynylthiophene-2-yl)imidazo[2,1-b]thiazole-5-amine, 333 mg (1.90 mmol) 3-fluoro-2-iodo-pyridine, 38 mg (0.06 mmol) bis(triphenylphosphine)-palladium-(II)-chloride, 19 mg (0.07 mmol) copper-(I)-iodide and 389 μl (2.80 mmol) NEt3 in AE (21 ml) was heated to 50° C. while being stirred for 20 h. Concentration in a vacuum was subsequently performed and a CC (AE) carried out with the residue, whereby 456 mg (1.15 mmol, 77%) N-tert-butyl-6-(5-((3-fluoropyridine-2-yl)ethynyl)thiophene-2-yl)imidazo[2,1-b]thiazole-5-amine was obtained.

reactant | N-tert-butyl-6-(5-ethynylthiophene-2-yl)imidazo[2,1-b]thiazole-5-amine | 1.49 mmol, 450 mg | C(C)(C)(C)NC1=C(N=C2SC=CN21)C=2SC(=CC2)C#C | C15H15N3S2
reactant | 3-fluoro-2-iodo-pyridine | 1.90 mmol, 333 mg | FC=1C(=NC=CC1)I | C5H3FIN
reactant | NEt3 | 2.80 mmol, 389 μl | CCN(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)-palladium-(II)-chloride | 0.06 mmol, 38 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper-(I)-iodide | 0.07 mmol, 19 mg | [Cu]I
product | N-tert-butyl-6-(5-((3-fluoropyridine-2-yl)ethynyl)thiophene-2-yl)imidazo[2,1-b]thiazole-5-amine | 1.15 mmol, 456 mg, 77% | C(C)(C)(C)NC1=C(N=C2SC=CN21)C=2SC(=CC2)C#CC2=NC=CC=C2F | C20H17FN4S2
